US04053606
Bis[2-methyl-3-hydroxy-5-vinyl-4-pyridylmethyl]disulfide
2-Methyl-3-hydroxy-4-mercaptomethyl-5-vinylpyridine hydrochloride (9 g.) is dissolved in 50 ml. water and treated with 2 N ammonium hydroxide to about pH 9. Air is bubbled through the solution for 24 hours. The precipitated bis[2-methyl-3-hydroxy-5-vinyl-4-pyridylmethyl]disulfide is collected on a filter and dried, m.p. 178°-180° (dec.).

reactant | 2-Methyl-3-hydroxy-4-mercaptomethyl-5-vinylpyridine hydrochloride | 9 g | Cl.CC1=NC=C(C(=C1O)CS)C=C
reactant | ammonium hydroxide | 2 N | [OH-].[NH4+]
solvent | water | O | H2O
product | Bis[2-methyl-3-hydroxy-5-vinyl-4-pyridylmethyl]disulfide | CC1=NC=C(C(=C1O)CSSCC1=C(C(=NC=C1C=C)C)O)C=C | C18H20N2O2S2
